US04107307
6-o-Propoxyphenyl-imidazo[1,5-d]-as-triazine-4(3H)-one
A 10.5 gm. portion of 3-[(2-o-propoxyphenyl-4-imidazolyl)methylene]carbazic acid ethyl ester in 100 ml. of diphenyl ether is heated on an oil bath with stirring at 255°-265° C. until effervesence subsides. The mixture is cooled to room temperature. The addition of petroleum ether produces a solid which is recrystallized from methanol with the aid of charcoal giving the desired product as a bright yellow solid, m.p. 197°-200° C.

reactant | 3-[(2-o-propoxyphenyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C1=C(C=CC=C1)OCCC)=O | C16H20N4O3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-o-Propoxyphenyl-imidazo[1,5-d]-as-triazine-4(3H)-one | C(CC)OC1=C(C=CC=C1)C1=NC=C2N1C(NN=C2)=O | C14H14N4O2
